### PR TITLE
[Merged by Bors] - feat(Topology/Closure): add frontier inclusion for finite unions

### PR DESCRIPTION
**Pull request by yuanyi-350**

### CODE REVIEW

File: Mathlib/Topology/Closure.lean [hunk 1]
```diff
@@ -545,6 +545,18 @@ theorem frontier_union_subset (s t : Set X) :
...
+  classical
+  induction s using Finset.induction_on with
+  | empty => simp
+  | @insert i s hi ih =>
+      simp only [Finset.mem_insert, Set.iUnion_iUnion_eq_or_left]
+      calc
+      _ ⊆ frontier (U i) ∩ closure (⋃ j ∈ s, U j)ᶜ ∪ closure (U i)ᶜ ∩ frontier (⋃ j ∈ s, U j) :=
+        frontier_union_subset (U i) (⋃ j ∈ s, U j)
+      _ ⊆ _ := by grind
+
```
Comment (Parcly-Taxel) [inline Mathlib/Topology/Closure.lean]:
```suggestion
lemma frontier_biUnion_subset {ι : Type*} (I : Finset ι) (s : ι → Set X) :
    frontier (⋃ i ∈ I, s i) ⊆ ⋃ i ∈ I, frontier (s i) := by
  classical induction I using Finset.induction_on with
  | empty => simp
  | insert i I hi ih =>
    simp only [Finset.mem_insert, iUnion_iUnion_eq_or_left]
    grind [frontier_union_subset]
```

**Review by Parcly-Taxel — APPROVED** [review]

File: Mathlib/Topology/Closure.lean [hunk 2]
```diff
@@ -545,6 +545,13 @@ theorem frontier_union_subset (s t : Set X) :
     frontier (s ∪ t) ⊆ frontier s ∩ closure tᶜ ∪ closure sᶜ ∩ frontier t := by
   simpa only [frontier_compl, ← compl_union] using frontier_inter_subset sᶜ tᶜ
 
+lemma frontier_biUnion_subset {ι : Type*} (I : Finset ι) (s : ι → Set X) :
+    frontier (⋃ i ∈ I, s i) ⊆ ⋃ i ∈ I, frontier (s i) := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Closure.lean]: Can you please add a version `Set.Finite.frontier_biUnion_subset` which takes `{I : Set ι} (hI : I.Finite)` as the assumption instead?
```suggestion
lemma Finset.frontier_biUnion_subset {ι : Type*} (I : Finset ι) (s : ι → Set X) :
    frontier (⋃ i ∈ I, s i) ⊆ ⋃ i ∈ I, frontier (s i) := by
```

**Review by j-loreaux — COMMENTED** [review]
bors merge
